US05457097
To a stirred solution of 4-azido-6-methylenandrosta-1,4-diene-3,17-dione (3.374 g, 10 mmol) in tetrahydrofuran (25 ml) was added portionwise triphenylphosphine (2.823 g, 10 mmol). During the reaction, which lasted about 2.5 h, the temperature raised to about 35° C. and there was nitrogen evolution. Then dioxane (100 ml) and water (10 ml) was added and the mixture was refluxed for 10 h. Finally the mixture was poured onto water and the raw product extracted with ethyl acetate. The organic phase was extracted 4× with 2N hydrochloric acid, the aqueous phase was separated and the product precipitated by alkalinization with sodium hydroxide solution. Thus almost pure 4-amino-6-methylen-androsta-1,4-diene-3,17dione was obtained in about 30% yield (0.934 g).

reactant | 4-azido-6-methylenandrosta-1,4-diene-3,17-dione | 10 mmol, 3.374 g | N(=[N+]=[N-])C1=C2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(C=CC1=O)C)=O)=C | C20H23N3O2
reactant | triphenylphosphine | 10 mmol, 2.823 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4-amino-6-methylen-androsta-1,4-diene-3,17dione | about 30% yield | NC1=C2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(C=CC1=O)C)=O)=C | C20H25NO2
